US08466283B2
Step 2: Preparation of N-(8-{3-[2-(hydroxymethyl)morpholin-4-yl]propoxy}-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)nicotinamide
N-(8-{3-[2-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholin-4-yl]propoxy}-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)nicotinamide (260 mg, 0.43 mmol) was suspended in THF (2 mL) and treated with a solution of tetra-n-butylammonium fluoride (1N, 0.64 mL, 0.64 mmol) in THF. The resulting mixture was stirred at rt for 4 h and was then diluted with water and extracted with 20% isopropanol/80% chloroform, dried (MgSO4) and concentrated under reduced pressure. The residue was then triturated with methanol and filtered to give the product as a solid (100 mg, 47%): HPLC MS RT=0.19 min, MH+=495.2; 1H NMR (DMSO-d6) δ: 12.7 (1H, s), 9.33 (1H, dd), 8.73 (1H, dd), 8.46 (1H, dt), 7.60 (1H, d), 7.54-7.49 (1H, m), 7.06 (1H, d) 4.66 (1H, t), 4.20-4.09 (4H, m), 4.07-3.98 (2H, m) 3.93 (3H, s), 3.76 (1H, br d), 3.48 (1H, td), 3.42-3.26 (4H, m), 2.83 (1H, d), 2.70 (1H, d), 2.47 (2H, t), 2.03-1.91 (3H, m).

reactant | N-(8-{3-[2-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholin-4-yl]propoxy}-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)nicotinamide | 0.43 mmol, 260 mg | [Si](C)(C)(C(C)(C)C)OCC1CN(CCO1)CCCOC=1C=CC=2C=3N(C(=NC2C1OC)NC(C1=CN=CC=C1)=O)CCN3 | C31H44N6O5Si
reactant | tetra-n-butylammonium fluoride | 0.64 mmol, 1N, 0.64 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-(8-{3-[2-(hydroxymethyl)morpholin-4-yl]propoxy}-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)nicotinamide | 100 mg, 47% | OCC1CN(CCO1)CCCOC=1C=CC=2C=3N(C(=NC2C1OC)NC(C1=CN=CC=C1)=O)CCN3 | C25H30N6O5
